US06437171B1
To a stirred suspension of 27.1 g (100 mmol) (3R,4S,5R)-5-amino-3-(1-ethylpropoxy)-4-hydroxycyclohexene-1-carboxylic acid ethyl ester and 20.8 g (100 mmol) 2-formylbenzenesulfonic acid sodium salt in 270 ml ethanol was heated to reflux under argon for 2 hours. The brown, turbid reaction mixture was evaporated in a rotary evaporator and the residue was treated twice with 135 ml of ethyl acetate and evaporated in a rotary evaporator at 50° C. to dryness to yield 45.88 g (99%) of (1R,5R,6S)-2-{[3-ethoxycarbonyl-5-(1-ethyl-propoxy)-6-hydroxy-cyclohex-3-enylimino]-methyl}-benzenesulfonic acid sodium salt as a yellow amorphous solid. IR (film): 3417, 2924, 2726, 1714, 1638, 1464, 1378, 1237, 1091, 970 cm−1; MS (ISP-MS): 438.3 (M+−Na) m/z.

reactant | (3R,4S,5R)-5-amino-3-(1-ethylpropoxy)-4-hydroxycyclohexene-1-carboxylic acid ethyl ester | 100 mmol, 27.1 g | C(C)OC(=O)C1=C[C@H]([C@H]([C@@H](C1)N)O)OC(CC)CC | C14H25NO4
reactant | 2-formylbenzenesulfonic acid sodium salt | 100 mmol, 20.8 g | [Na+].C(=O)C1=C(C=CC=C1)S(=O)(=O)[O-]
solvent | ethanol | 270 ml | C(C)O | C2H6O
product | (1R,5R,6S)-2-{[3-ethoxycarbonyl-5-(1-ethyl-propoxy)-6-hydroxy-cyclohex-3-enylimino]-methyl}-benzenesulfonic acid sodium salt | 45.88 g, 99% | [Na+].C(C)OC(=O)C=1C[C@H]([C@@H]([C@@H](C1)OC(CC)CC)O)N=CC1=C(C=CC=C1)S(=O)(=O)[O-] | InChI=1S/C21H29NO7S.Na/c1-4-16(5-2)29-18-12-15(21(24)28-6-3)11-17(20(18)23)22-13-14-9-7-8-10-19(14)30(25,26)27;/h7-10,12-13,16-18,20,23H,4-6,11H2,1-3H3,(H,25,26,27);/q;+1/p-1/t17-,18-,20+;/m1./s1
